.include ./t14y_tsmc_025_level3.txt

*netlist
m1 vdd in 0 0 cmosn l=1u w=0.5u

*power sources

v_dd vdd 0 3.3
v_in in 0 3.3

.dc v_dd 0 3.3 0.1 v_in 0 3.3 1 

*computing the response for various widths
.control 
foreach wid 125e-9 500e-9 2500e-9
alter m1 w=$wid
run
end
.endc

*plotting the output for various widths
.control 
foreach iter 1 2 3
setplot dc$iter
plot -vdd#branch
end
.endc
